US05972935
4'-Amino-2'-methylbiphenyl4-carboxylic acid
4-Bromo-3-methylaniline (7.40 g, 40 mmol) and 4-carboxybenzeneboronic acid (7.90 g, 48 mmol) were stirred in 1,2-dimethoxyethane (DME) (150 ml). Anhydrous sodium carbonate (19.0 g, 179 mmol) was dissolved in water (150 ml) and added to the above. The mixture was then purged with a stream of Ar for 15 min. Tetrakis (triphenylphosphine)palladium (O) (0.25 g, 0.2 mmol) was added, and the mixture was stirred at reflux for 20 h under Ar. DME was removed by evaporation under reduced pressure, and the clear residue was acidified (5M HCl) to yield a thick grey suspension. The solid was filtered off, washed with water and dried in vacuo at 60° C., to give the title compound (9.60 g, quantitative).

reactant | 4-Bromo-3-methylaniline | 40 mmol, 7.40 g | BrC1=C(C=C(N)C=C1)C | C7H8BrN
reactant | 4-carboxybenzeneboronic acid | 48 mmol, 7.90 g | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | sodium carbonate | 179 mmol, 19.0 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 150 ml | COCCOC | C4H10O2
solvent | water | 150 ml | O | H2O
product | 4'-Amino-2'-methylbiphenyl4-carboxylic acid | 9.60 g | NC1=CC(=C(C=C1)C1=CC=C(C=C1)C(=O)O)C | C14H13NO2
